US08530663B2
PdCl2(PPh3)2 (0.7 g, 1.03 mmol, 0.05 eq.) was added to a solution of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (6.3 g, 20.5 mmol, 1.0 eq.) in THF (120 mL) under nitrogen. To this was added 3-bromoisonicotinic acid methyl ester (4.4 g, 20.5 mmol, 1.0 eq.). This was followed by the addition of a solution of Na2CO3 (8.7 g, 82.1 mmol, 4.0 eq.) in water (41 mL). The resulting solution was stirred for 14 hours while the temperature was maintained at reflux in an oil bath. The resulting solution was diluted with EtOAc (100 mL), and washed with saturated aqueous NaCl (2×100 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:10) to yield 3′,6′-dihydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester (5.6 g) as a yellow oil.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 20.5 mmol, 6.3 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | 3-bromoisonicotinic acid methyl ester | 20.5 mmol, 4.4 g, 1.0 eq. | COC(C1=C(C=NC=C1)Br)=O | C7H6BrNO2
reactant | Na2CO3 | 82.1 mmol, 8.7 g, 4.0 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | water | 41 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 1.03 mmol, 0.7 g, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3′,6′-dihydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester | 5.6 g | COC(=O)C1=C(C=NC=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O4
